US04965257
4-n-Butyl-1-[4-(3-methoxyprop-1-ynyl)phenyl]-3-trifluoromethyl-2,6,7-trioxabicyclo[2,2,2]octane was prepared from diethyl n-butyl-malonate in a manner analogous to the synthesis of 1-[4-(3-methoxyprop-1-ynyl)phenyl]-4-n-propyl-3-trifluoromethyl-2,6,7-trioxabicyclo[2,2,2]octane

reactant | diethyl n-butyl-malonate | C(CCC)C(C(=O)OCC)C(=O)OCC | C11H20O4
reactant | 1-[4-(3-methoxyprop-1-ynyl)phenyl]-4-n-propyl-3-trifluoromethyl-2,6,7-trioxabicyclo[2,2,2]octane | COCC#CC1=CC=C(C=C1)C12OC(C(CO1)(CO2)CCC)C(F)(F)F | C19H21F3O4
product | 4-n-Butyl-1-[4-(3-methoxyprop-1-ynyl)phenyl]-3-trifluoromethyl-2,6,7-trioxabicyclo[2,2,2]octane | C(CCC)C12C(OC(OC1)(OC2)C2=CC=C(C=C2)C#CCOC)C(F)(F)F | C20H23F3O4
